US09402841B2
Step F: 1-(bromomethyl)isoquinoline-3-carbonitrile
A suspension of 1-(hydroxymethyl)isoquinoline-3-carbonitrile (0.150 g, 0.814 mmol) in THF (0.8 mL) and treated with PBr3 (0.814 mL, 0.814 mmol). The reaction mixture was stirred at RT for 2 hours, then poured over ice and neutralized with saturated aqueous NaHCO3. The mixture was warmed to RT and extracted with EtOAc (20 mL). The organic phase was separated, dried over MgSO4, filtered, and concentrated in vacuo to give the title compound as a yellow solid. The crude product was dried under high vacuum and used without further purification (0.15 g, 75%). ESI-MS m/z [M+H]+ 247.5.

reactant | 1-(hydroxymethyl)isoquinoline-3-carbonitrile | 0.814 mmol, 0.150 g | OCC1=NC(=CC2=CC=CC=C12)C#N | C11H8N2O
reactant | PBr3 | 0.814 mmol, 0.814 mL | P(Br)(Br)Br | Br3P
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 0.8 mL | C1CCOC1 | C4H8O
product | 1-(bromomethyl)isoquinoline-3-carbonitrile | BrCC1=NC(=CC2=CC=CC=C12)C#N | C11H7BrN2
